US04495194
Reaction of 4-chloro-5-sulfamoylphthalimide (4.54 g., 0.0174 mole) and 4-amino-1-[4-(2-propenyloxy)benzyl]piperidine (4.29 g., 0.0174 mole) in 100 ml. of n-pentanol at reflux temperature for 24 hrs. according to the procedure of Example 1(a) afforded crude 1,3-dioxoisoindole product. Purification was carried out by treating with methanol-decolorizing charcoal followed by trituration with ether to afford 4.8 g. (57%) of the 1,3-dioxoisoindole used without further purification below.

reactant | 4-chloro-5-sulfamoylphthalimide | 0.0174 mole, 4.54 g | ClC=1C=C2C(C(=O)NC2=O)=CC1S(N)(=O)=O | C8H5ClN2O4S
reactant | 4-amino-1-[4-(2-propenyloxy)benzyl]piperidine | 0.0174 mole, 4.29 g | NC1CCN(CC1)CC1=CC=C(C=C1)OCC=C | C15H22N2O
reactant | n-pentanol | C(CCCC)O | C5H12O
product | 1,3-dioxoisoindole | O=C1NC(C2=CC=CC=C12)=O | C8H5NO2
